US06914074B2
4-(2-Naphthyl)phenol
The title compound was prepared by reacting 2-(4-methoxyphenyl)naphthalene (1.01 g, 4.31 mmol) with 10 g of pyridinium HCl at 190° C. according to method B to yield 0.84 g (89%) of a white solid: mp 148° C.; 1H NMR (DMSO-d6): δ 6.92 (2H, d, J=8.71 Hz), 7.46-7.53 (2H, m), 7.66 (2H, d, J=8.71 Hz), 7.79 (1H, dd, J=1.78 Hz, J=8.51 Hz), 7.90 (1H, d, J=8.31 Hz), 7.95 (2H, d, J=8.31 Hz), 8.11 (1H, d, J=1.19 Hz), 9.65 (1H, s); MS (ESI) m/z 219 (M−H)−.

reactant | 2-(4-methoxyphenyl)naphthalene | 4.31 mmol, 1.01 g | COC1=CC=C(C=C1)C1=CC2=CC=CC=C2C=C1 | C17H14O
reactant | pyridinium HCl | 10 g | Cl.[NH+]1=CC=CC=C1
product | 4-(2-Naphthyl)phenol | C1=C(C=CC2=CC=CC=C12)C1=CC=C(C=C1)O | C16H12O
